US07211672B2
(±)-Cis-N-[1-(4-acetylamino-benzoyl)-2-methyl-1,2,3,4-tetrahydro-quinolin-4-yl]-N-phenyl-propionamide (A-105)
(±)-Cis-N-[1-(4-acetylamino-benzoyl)-2-methyl-1,2,3,4-tetrahydro-quinolin-4-yl]-N-phenyl-propionamide was prepared from (±)-cis-N-[1-(4-amino-benzoyl)-2-methyl-1,2,3,4-tetrahydro-quinolin-4-yl]-N-phenyl-propionamide. To a solution of (±)-cis-N-[1-(4-amino-benzoyl)-2-methyl-1,2,3,4-tetrahydro-quinolin-4-yl]-N-phenyl-propionamide. (100 mg, 0.24 mmol) in 2.5 ml tetrahydrofuran was added acetyl chloride (44 mL, 0.63 mmol) followed by triethylamine (88 μL, 0.63 mmol). The reaction was stirred at room temperature overnight. The mixture was concentrated under reduced pressure. The residue was purified by silica gel chromatography, eluting with hexane-ethyl acetate (3:1) to give the title compound (51 mg, 46%).

reactant | (±)-cis-N-[1-(4-amino-benzoyl)-2-methyl-1,2,3,4-tetrahydro-quinolin-4-yl]-N-phenyl-propionamide | NC1=CC=C(C(=O)N2[C@H](C[C@H](C3=CC=CC=C23)N(C(CC)=O)C2=CC=CC=C2)C)C=C1 | C26H27N3O2
reactant | acetyl chloride | 0.63 mmol, 44 mL | C(C)(=O)Cl | C2H3ClO
reactant | triethylamine | 0.63 mmol, 88 μL | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 2.5 ml | O1CCCC1 | C4H8O
product | (±)-Cis-N-[1-(4-acetylamino-benzoyl)-2-methyl-1,2,3,4-tetrahydro-quinolin-4-yl]-N-phenyl-propionamide | 51 mg, 46% | C(C)(=O)NC1=CC=C(C(=O)N2[C@H](C[C@H](C3=CC=CC=C23)N(C(CC)=O)C2=CC=CC=C2)C)C=C1 | C28H29N3O3
